US08466197B2
CDI (972 mg, 5.99 mmol) was added to a solution of diflunisal (1.50 g, 5.99 mmol) in DMF (30 mL). The reaction mixture was stirred at 50° C. for 2 h and isopropyl alcohol (1.15 mL, 14.97 mmol) was dropwise added. The reaction mixture was stirred at 50° C. for 3 h and allowed to reach r.t. It was poured into H2O (50 mL) and extracted with Et2O (2×60 mL). The organic layer was washed with NaHCO3 (20 mL, saturated aqueous solution), dried over Na2SO4 (anhydrous), filtered and concentrated. The crude residue was flash chromatographed on SiO2 (15% EtOAc/hexanes) to furnish 720 mg of isopropyl 2′,4′-difluoro-4-hydroxybiphenyl-3-carboxylate (white solid, yield: 41%).

reactant | CDI | 5.99 mmol, 972 mg | C1=CN(C=N1)C(=O)N2C=CN=C2 | C7H6N4O
reactant | diflunisal | 5.99 mmol, 1.50 g | C1=CC(=C(C=C1C=2C=CC(=CC2F)F)C(=O)O)O | C13H8F2O3
reactant | isopropyl alcohol | 14.97 mmol, 1.15 mL | C(C)(C)O | C3H8O
reactant | H2O | 50 mL | O | H2O
solvent | DMF | 30 mL | CN(C)C=O | C3H7NO
product | isopropyl 2′,4′-difluoro-4-hydroxybiphenyl-3-carboxylate | 720 mg, yield: 41% | FC1=C(C=CC(=C1)F)C1=CC(=C(C=C1)O)C(=O)OC(C)C | C16H14F2O3
